US07842685B2
1-(2-(4-(1,3-Dioxan-2-yl)-2-fluorophenyl)thiazolo[5,4-b]pyridin-5-yl)-1-(3,3-difluorocyclobutyl)-2-(trimethylsilyl)ethanol (600.0 mg, 1.148 mmol) in THF (16.0 mL) was carefully added dropwise to potassium hydride (35 wt % in mineral oil; 395 mg, 3.44 mmol) at 0° C. The resulting brown solution was heated at 65° C. for 3 h. Excess potassium hydride was then quenched by the sequential addition of water (4 mL) and sat. aq. NH4Cl (4 mL). THF was removed in vacuo, and the resulting mixture was then diluted with EtOAc (150 mL) and sequentially washed with sat. aq. NH4Cl and brine. The combined aqueous layers were extracted with EtOAc), and all organic layers were then combined, dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 0-70% EtOAc/hexanes) furnished 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(3,3-difluorocyclobutyl)vinyl)-thiazolo[5,4-b]pyridine as a light yellow solid. MS (ESI) m/z: Calculated: 432.1; Observed: 433.0 (M++1).

reactant | 1-(2-(4-(1,3-Dioxan-2-yl)-2-fluorophenyl)thiazolo[5,4-b]pyridin-5-yl)-1-(3,3-difluorocyclobutyl)-2-(trimethylsilyl)ethanol | 1.148 mmol, 600.0 mg | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(C[Si](C)(C)C)(O)C1CC(C1)(F)F)F | C25H29F3N2O3SSi
reactant | potassium hydride | 3.44 mmol, 395 mg | [H-].[K+]
solvent | THF | 16.0 mL | C1CCOC1 | C4H8O
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-(3,3-difluorocyclobutyl)vinyl)-thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=C)C1CC(C1)(F)F)F | C22H19F3N2O2S
